Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
hepatic encephalopathy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ yo M with hx of hepatic encephalopathy, cirrhosis c/b 
___ tear, HCV, EtOH use presenting from prison with 
altered mental status. He is normally oriented x3 but when found 
around 4 pm he was playing with feces and mumbling, oriented to 
name only. Labs and imaging were performed. NH4 164. lactate 
1.3. Head CT normal per report. Abdominal CT shows non-specific 
fat stranding throughout, stercoral colitis with fecal impaction 
and splenomegaly. No fevers. Per report, CXR without obvious 
infiltrate. Negative UA at ___.

In the ED, initial VS were initial vitals: 97.1 60 114/67 16 
100% RA
Exam: Pt was oriented to birthdate only upon eval in ER. Says 
non-sensical statements. Abd distended with diffuse tenderness. 
No fluid wave.
Initial labs: ammonia 77, BUN/Cr ___, AST/ALT 76/36, Tbili 
1.9, albumin 3.4, ALP 116, plt 109, H/H 10.5/33.7, WBC 9.4, INR 
1.4
He received 0.5 mg Ativan x 2, cipro 400 mg IV, flagyl 500 mg 
IV, 30 mL lactulose, 500 cc NS
Blood cultures x 2 drawn
Outside images were reviewed in ___ records
Transfer vitals: 99.9 87 113/56 18 91% RA

On arrival to the floor, patient denies abdominal pain and 
fever.  

 
Past Medical History:
EtOH/HCV related Cirrhosis, ETOH abuse, hepatic failure 
(paracentesis x 2 in last year), encephalopathy, GERD, 
esophargeal varices, substance abuse (cocaine,heroin), Bipolar 
disease
 
Social History:
___
Family History:
Father with MI
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS -  99.4 130/85 84 18 99RA
GENERAL: Confused, Mumbling, Responds to name, unable to answer 
questions consistently. Restless in bed. 
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
dry mucous membrane, poor dentition
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, nondistended, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly, no ascites on US  
EXTREMITIES: no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: difficult to assess, II-XII grossly intact, moving all 4 
extremities
SKIN: warm and well perfused, no rashes 

DISCHARGE PHYSICIAL EXAM
VS -  97.9 121/67 60 17 100RA
GENERAL: Pleasant affect, NAD, responds appropriate, oriented to 
self, year, and ___, would like to go back to prison
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
moist mucous membrane, poor dentition
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: obese, nondistended, +BS, nontender in all quadrants, 
no rebound/guarding, no hepatosplenomegaly, no ascites on US  
EXTREMITIES: no cyanosis, clubbing or edema
PULSES: 2+ DP pulses bilaterally  
NEURO:  II-XII grossly intact, moving all 4 extremities, no 
asterixis
SKIN: warm and well perfused, no rashes 
 
Pertinent Results:
ADMISSION LABS 
___ 01:30AM BLOOD WBC-9.4 RBC-3.98* Hgb-10.5* Hct-33.7* 
MCV-85 MCH-26.4 MCHC-31.2* RDW-15.3 RDWSD-47.4* Plt ___
___ 01:30AM BLOOD Neuts-67.7 Lymphs-14.7* Monos-12.5 
Eos-4.3 Baso-0.6 Im ___ AbsNeut-6.33* AbsLymp-1.38 
AbsMono-1.17* AbsEos-0.40 AbsBaso-0.06
___ 01:30AM BLOOD ___ PTT-30.8 ___
___ 01:30AM BLOOD Glucose-85 UreaN-19 Creat-0.9 Na-136 
K-3.6 Cl-107 HCO3-17* AnGap-16
___ 01:30AM BLOOD ALT-36 AST-76* AlkPhos-116 TotBili-1.9*
___ 01:30AM BLOOD Albumin-3.4* Calcium-9.0 Phos-4.1 Mg-2.1
___ 01:30AM BLOOD Ammonia-77*

IMAGING
RUQUS ___

Cirrhotic liver, without evidence of focal lesion, allowing for 
markedly 
limited examination as the patient was unable to cooperate with 
ultrasound.  
Splenomegaly.  No ascites. 

DISCHARGE LABS
___ 09:35AM BLOOD WBC-5.1 RBC-3.63* Hgb-9.4* Hct-30.9* 
MCV-85 MCH-25.9* MCHC-30.4* RDW-14.9 RDWSD-45.8 Plt Ct-96*
___ 09:35AM BLOOD Plt Smr-LOW Plt Ct-96*
___ 09:35AM BLOOD ___ PTT-31.7 ___
___ 09:35AM BLOOD Glucose-163* UreaN-10 Creat-0.8 Na-129* 
K-4.2 Cl-102 HCO3-20* AnGap-11
___ 09:35AM BLOOD ALT-33 AST-86* AlkPhos-115 TotBili-1.4
___ 09:35AM BLOOD Calcium-8.6 Phos-3.0 Mg-2.___ with HCV/EtOH associated cirrhosis and history of hepatic 
encephalopathy, ascites and history of esophageal varices who 
was transferred for evaluation from prison for altered mental 
status. He was noted to have 9cm fecal mass consistent with 
missed lactulose dosing. His symptoms improved with aggressive 
lactulose administration. 

## HEPATIC ENCEPHALOPATHY: Diagnosis presumed based on 
improvement with aggressive lactulose. Patient was admitted to 
jail ___ and had appropriate mental status. Based on fecal 
impaction seen on CT, his lactulose may have been underdosed or 
not given. He should continue on lactulose TID with increasing 
doses if mental status worsens. Additionally, he was started on 
rifaxamin BID. There was no evidence of infection, bleed, or 
ascites. 
--- Lactulose 30mL TID and titrate to 3BM daily 
--- Rifaximin 550 BID 

## GIB/VARICES: On nadolol, esophageal varices on CT. No 
evidence of gastric bleed. 

## ASCITES: reported h/o paracentesis x2 in the past year. 
Currently no ascites. He was maintained on furosemide 40mg and 
spironolactone 100mg

## SBP: No history of SBP; prophylaxis not indicated

## NUTRITION: Continue low sodium (2g), high protein diet. 

TRANSTIONAL ISSUES
==================
-Ensure at least 3 bowel movements daily with TID lactulose. If 
mental status waning, increase frequency of dosing. If frankly 
confused, can increase to q2hour dosing. 
-New medication: Rifaxamin 550mg BID
-Patient will need follow up with a Liver specialist
-Patient would benefit from EGD to assess varices
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 100 mg PO DAILY 
2. Furosemide 40 mg PO DAILY 
3. Nadolol 20 mg PO DAILY 
4. Lactulose 45 mL PO BID 
5. Omeprazole 40 mg PO DAILY 
6. Lithium Carbonate 600 mg PO BID 

 
Discharge Medications:
1. Furosemide 40 mg PO DAILY 
2. Lactulose 30 mL PO TID 
3. Nadolol 20 mg PO DAILY 
4. Spironolactone 100 mg PO DAILY 
5. Lithium Carbonate 600 mg PO BID 
6. Omeprazole 40 mg PO DAILY 
7. Thiamine 100 mg PO DAILY 
8. Rifaximin 550 mg PO BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
HCV/EtOH related Cirrhosis
HCV (untreated)
Hepatic Encephalopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted to ___ for confusion related to your liver 
disease. Your condition improved with frequent lactulose so that 
you could poop out the toxins not cleared by your liver. It is 
very important you continue to take your lactulose and poop ___ 
times per day. Call your doctor if you start developing 
confusion, fevers, chills, blood in your vomit, or blood in your 
stools. 

Wishing you the best of health moving forward,
Your ___ team
 
Followup Instructions:
___